US04621084
A mixture of aluminum chloride (40 g) and 2-bromopropionyl bromide (32.4 g) in carbon disulfide (100 ml) was refluxed with stirring for 30 minutes. To the resultant mixture was added 2-benzoxazolinone (13.5 g) and the mixture was refluxed under stirring for 7 hours. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo to afford a crystalline residue, which was recrystallized from a mixture of ethyl acetate and diethyl ether to give 5-(2-bromopropionyl)-2-benzoxazolinone (13.5 g). mp. 191°-193° C.

reactant | aluminum chloride | 40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromopropionyl bromide | 32.4 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | 2-benzoxazolinone | 13.5 g | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
product | 5-(2-bromopropionyl)-2-benzoxazolinone | 13.5 g | BrC(C(=O)C=1C=CC2=C(NC(O2)=O)C1)C | C10H8BrNO3
